US04983633
2-Amino-N-[4-[2-(dimethylamino)ethoxy]benzyl]benzamide
To a solution of 2.00 g of 4-[2-(dimethylamino)ethoxy]benzylamine in 20 ml of ethyl acetate was added 1.04 g of isatoic anhydride. The mixture was stirred at room temperature for 15 minutes. Hydrochloric acid (10%) was added to the mixture. The aqueous layer was separated, made alkaline with potassium carbonate and extracted with ethyl acetate. The extract was washed with water, dried, and evaporated. Recrystallization of the residue from ethyl acetate gave 1.85 g of colorless pillars, m.p. 104°-105° C.

reactant | 4-[2-(dimethylamino)ethoxy]benzylamine | 2.00 g | CN(CCOC1=CC=C(CN)C=C1)C | C11H18N2O
reactant | isatoic anhydride | 1.04 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | Hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-Amino-N-[4-[2-(dimethylamino)ethoxy]benzyl]benzamide | NC1=C(C(=O)NCC2=CC=C(C=C2)OCCN(C)C)C=CC=C1 | C18H23N3O2
